US07056349B2
3-Methyl-1,4-benzoquinone-4-oxime was prepared by reaction of 3-methylphenol with sodium nitrite under basic conditions by the method of T. Ishikawa et al. described in Tetrahedron 31, 1995, page 8454.

reactant | 3-methylphenol | CC=1C=C(C=CC1)O | C7H8O
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 3-Methyl-1,4-benzoquinone-4-oxime | CC1=CC(C=CC1=NO)=O | C7H7NO2
